US08124649B2
A solution of 5-chlorooxindole (362 mg, 2.17 mmol), 1-(5-(4-(4-methyl-1,4-diazepane-1-carbonyl)phenyl)furan-2-yl)ethanone (800 mg of oil) and piperidine (214 μL, 2.17 mmol) in toluene (10 mL) was heated at reflux with a Dean-Stark receiver for 16 hours. After evaporation of the solvent, purification by silica column chromatography (methanol gradient in dichloromethane, 0 to 5% vol) gave 5-chloro-3-(1-(5-(4-(4-methyl-1,4-diazepane-1-carbonyl)phenyl)furan-2-yl)ethylidene)indolin-2-one (200 mg) as an E:Z mixture. LCMS (ES): m/z 476 [M+1]+.

reactant | 5-chlorooxindole | 2.17 mmol, 362 mg | ClC=1C=C2CC(NC2=CC1)=O | C8H6ClNO
reactant | 1-(5-(4-(4-methyl-1,4-diazepane-1-carbonyl)phenyl)furan-2-yl)ethanone | 800 mg | CN1CCN(CCC1)C(=O)C1=CC=C(C=C1)C1=CC=C(O1)C(C)=O | C19H22N2O3
reactant | piperidine | 2.17 mmol, 214 μL | N1CCCCC1 | C5H11N
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 5-chloro-3-(1-(5-(4-(4-methyl-1,4-diazepane-1-carbonyl)phenyl)furan-2-yl)ethylidene)indolin-2-one | 200 mg | ClC=1C=C2C(C(NC2=CC1)=O)=C(C)C=1OC(=CC1)C1=CC=C(C=C1)C(=O)N1CCN(CCC1)C | C27H26ClN3O3
